US05523277
Preparation of N-[5-fluoro-1-(o-hydroxyphenyl)-1H -benzotriazole-6-yl]-1-cyclohexene-1,2-dicarboximide
A solution of N-[5-fluoro-1-(o-methoxyphenyl)-1H -benzotriazol-6-yl]-1-cyclohexene-1,2-dicarboximide (1.00 g, 0.003 mol) in methylene chloride is slowly added to a one molar boron tribromide in methylene chloride solution (5 mL, 0.005 mol) at -20° C. The reaction mixture is stirred at room temperature overnight, washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a tan solid. Flash column chromatography of the solid using silica gel and 2.5% to 10% ethyl acetate in methylene chloride solutions gives the title product as a white solid, mp 274°-275° C.

reactant | N-[5-fluoro-1-(o-methoxyphenyl)-1H -benzotriazol-6-yl]-1-cyclohexene-1,2-dicarboximide | 0.003 mol, 1.00 g | FC1=CC2=C(N(N=N2)C2=C(C=CC=C2)OC)C=C1N1C(=O)C2=C(CCCC2)C1=O | C21H17FN4O3
reactant | boron tribromide | one molar | B(Br)(Br)Br | BBr3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.005 mol, 5 mL | C(Cl)Cl | CH2Cl2
product | N-[5-fluoro-1-(o-hydroxyphenyl)-1H -benzotriazole-6-yl]-1-cyclohexene-1,2-dicarboximide | FC1=CC2=C(N(N=N2)C2=C(C=CC=C2)O)C=C1N1C(=O)C2=C(CCCC2)C1=O | C20H15FN4O3
